### PR TITLE
feat: strengthen bound in `isPrimePow_nat_iff_bounded`

### PR DESCRIPTION
**Pull request by Jun2M**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
I just randomly came across this PR. Thanks for your contribution! Did you mean to make your pull request as ready for review? If so, please add the label `awaiting-review` and fix the merge conflicts.

File: Mathlib/Algebra/IsPrimePow.lean [hunk 1]
```diff
@@ -82,15 +83,23 @@ theorem Nat.Prime.isPrimePow {p : ℕ} (hp : p.Prime) : IsPrimePow p :=
...
+  refine Iff.symm ⟨fun ⟨p, _, k, _, hp, hk, hn⟩ => ⟨p, k, hp, hk, hn⟩, ?_⟩
   rintro ⟨p, k, hp, hk, rfl⟩
-  refine' ⟨p, _, k, (Nat.lt_pow_self hp.one_lt _).le, hp, hk, rfl⟩
-  conv => { lhs; rw [← (pow_one p)] }
-  exact pow_le_pow_right hp.one_lt.le hk
+  refine ⟨p, ?_, k, Nat.le_log2_prime_pow hp, hp, hk, rfl⟩
+  exact Nat.le_self_pow (Nat.pos_iff_ne_zero.mp hk) _
 #align is_prime_pow_nat_iff_bounded isPrimePow_nat_iff_bounded
 
+theorem isPrimePow_nat_iff_bounded' (n : ℕ) :
```
Comment (grunweg) [inline Mathlib/Algebra/IsPrimePow.lean:94]: Have you copied the same theorem twice? I think once is enough :-)

Comment (grunweg) [reply Mathlib/Algebra/IsPrimePow.lean:94]: Thinking about this result slightly more: I'm not sure if it's *that* mathematically interesting - but I don't mind "easy" strengthenings of existing results either.

Comment (Jun2M) [reply Mathlib/Algebra/IsPrimePow.lean:94]: > Have you copied the same theorem twice? I think once is enough :-)

Thanks for your interest! These two theorems are very close but different in that the first one has the bound of n.log2 (the best bound without dependence to p) and the second one has p.log n (the best bound that depends on p). (The second one has one more line in the proof for this reason)

Comment (Jun2M) [reply Mathlib/Algebra/IsPrimePow.lean:94]: > Thinking about this result slightly more: I'm not sure if it's _that_ mathematically interesting - but I don't mind "easy" strengthenings of existing results either.

Yeah, I made this PR because while I was looking around Mathlib, I found a bound that didn't seem optimal and thought it would be a easy win.

But then, I wasn't sure whether the new bound be allowed to depend on p or not so I tried both cases and soon after, exams swept me away.
